US09261783B2
Reaction was conducted by the same procedure as Example 11 aside from using methyl 2,2-difluoro-3-(2,2-difluoro-3-hydroxy-4-methylpentanoyloxy)-4-methylpentanoate in Example 11-1 instead of 2,2,3,3,4,4,5,5-octafluoropentyl 2,2-difluoro-3-hydroxy-4-methylpentanoate in Example 11-3. Subsequent purification was conducted by silica gel column chromatography instead of vacuum distillation. The target compound, methyl 2,2-difluoro-3-(2,2-difluoro-3-methacryloyloxy-4-methylpentanoyloxy)-4-methylpentanoate was obtained in a yield of 49%.

reactant | methyl 2,2-difluoro-3-(2,2-difluoro-3-hydroxy-4-methylpentanoyloxy)-4-methylpentanoate | FC(C(=O)OC)(C(C(C)C)OC(C(C(C(C)C)O)(F)F)=O)F | C13H20F4O5
reactant | 2,2,3,3,4,4,5,5-octafluoropentyl 2,2-difluoro-3-hydroxy-4-methylpentanoate | FC(C(=O)OCC(C(C(C(F)F)(F)F)(F)F)(F)F)(C(C(C)C)O)F | C11H12F10O3
product | methyl 2,2-difluoro-3-(2,2-difluoro-3-methacryloyloxy-4-methylpentanoyloxy)-4-methylpentanoate | yield of 49% | FC(C(=O)OC)(C(C(C)C)OC(C(C(C(C)C)OC(C(=C)C)=O)(F)F)=O)F | C17H24F4O6
